### PR TITLE
[Merged by Bors] - chore(Analysis): tag a few more lemmas with fun_prop

### PR DESCRIPTION
**Pull request by grunweg**
and some mild (very likely non-exhaustive) golfing this enables.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Continuity.lean [hunk 1]
```diff
@@ -80,15 +80,16 @@ theorem tendsto_norm' {x : E} : Tendsto (fun a => ‖a‖) (𝓝 x) (𝓝 ‖x
...
 theorem continuous_norm' : Continuous fun a : E => ‖a‖ := by
   simpa using continuous_id.dist (continuous_const : Continuous fun _a => (1 : E))
 
-@[to_additive (attr := continuity) continuous_nnnorm]
+@[to_additive (attr := continuity, fun_prop) continuous_nnnorm]
 theorem continuous_nnnorm' : Continuous fun a : E => ‖a‖₊ :=
   continuous_norm'.subtype_mk _
 
-@[to_additive (attr := continuity) continuous_enorm]
+attribute [fun_prop] IsInducing.continuous IsEmbedding.continuous
```
Comment (grunweg) [inline Mathlib/Analysis/Normed/Group/Continuity.lean:91]:
```suggestion

File: Mathlib/Topology/Maps/Basic.lean [hunk 2]
```diff
@@ -136,6 +136,7 @@ lemma continuousAt_iff' (hf : IsInducing f) {x : X} (h : range f ∈ 𝓝 (f x))
     ContinuousAt (g ∘ f) x ↔ ContinuousAt g (f x) := by
   simp_rw [ContinuousAt, Filter.Tendsto, ← hf.map_nhds_of_mem _ h, Filter.map_map, comp]
 
+@[fun_prop]
```
Comment (j-loreaux) [inline Mathlib/Topology/Maps/Basic.lean:139]: This, and the `Embedding` and `OpenEmbedding` ones below, is a recipe for disaster since those structures are not marked `fun_prop` themselves. So the only way these lemmas would succeed with `fun_prop` is if there were a discharger that supplied these hypotheses (which seems rare, since that's what `fun_prop` is supposed to do).

Now, maybe we *should* mark those as `fun_prop`, but that's another discussion.

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/Topology/Maps/Basic.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Topology/Maps/Basic.lean]: Good point, thanks for being careful! I have reverted these changes for now.

**Comment by grunweg** [comment]
Thanks for the review!
bors merge
